US07964619B2
The N′,N″-di-BOCguanidine (0.45 g, 0.60 mmol) was dissolved in CH2Cl2 (10 mL), diluted with dry EtOH (15 mL) and the chilled solution was saturated with dry HCl. The reaction was then kept stirring at room temperature for 3 days (drying tube), when by the product started forming a precipitate over time. After evaporating the solvent to dryness, the residue was washed with ether multiple times and was dried under vacuum at 50-60° C. over night to give whitish yellow solid of the bis-guanidine dihydrochloride; mp>300° C. 1H NMR (DMSO-d6): δ 7.85 (dd, J=1.5, 8.4 Hz, 4H), 7.92 (d, J=1.2 Hz, 4H), 8.00 (dd, J=1.5, 8.4 Hz, 4H), 9.09 (br s, 4H), 11.25 (br s, 2H). 13C NMR (DMSO-d6): δ 155.98, 138.35, 137.32, 135.00, 127.79, 127.22, 124.79. MS (ESI) m/e (rel. int.): 344 (M+, 6), 173 (100). Anal. Calc. for C20H20N6-2.0HCl-1.0H2O-0.2C2H5OH: C %, 55.11; H %, 5.71; N %, 18.90; Found. C %, 55.39; H %, 5.50; N %, 18.71.

reactant | N′,N″-di-BOCguanidine | 0.60 mmol, 0.45 g | C(=O)(OC(C)(C)C)NC(N)=NC(=O)OC(C)(C)C | C11H21N3O4
reactant | HCl | Cl | ClH
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | EtOH | 15 mL | CCO | C2H6O
product | bis-guanidine dihydrochloride | Cl.Cl.NC(=N)N.NC(=N)N | InChI=1S/2CH5N3.2ClH/c2*2-1(3)4;;/h2*(H5,2,3,4);2*1H
